*-------------------------------------------------------------------------
* Copyright Notice
*
* Copyright (c) 2000, Sandia Corporation, Albuquerque, NM.
*-------------------------------------------------------------------------
*
*-------------------------------------------------------------------------
* Filename       : $RCSfile$
*
* Purpose        : Cartesian PDE BJT test circuit
*
* Special Notes  : See pnp1.cir from the test suite.  It is a very similar
*                  problem, except that this one uses a drift-diffusion 
*                  PDE simulation, rather than a SPICE-style lumped
*                  parameter model.
*
*                  Note that the meshfile is specified to be "internal.msh".
*                  This specification forces Xyce to generate its own
*                  mesh internally, rather than read it in from an external
*                  file.  For internally generate meshes, Xyce is not 
*                  very flexible - there are a couple of hardwired problems.
*                  For a 3-terminal device, the hardwired default problem
*                  is a BJT device.
*
*                  The mesh specified here is fairly course (30x15), but
*                  the problem can also be solved with much finer meshes.
*
*                  Courser meshes will also work, but the results won't 
*                  look that great to plot.  The value for nx shouldn't
*                  be smaller than 11, as the smallest mesh features
*                  for this BJT are about 1/10th of the length of the 
*                  device.  All the electrodes are connected along 
*                  the top of the device (x=xmin-xmax, y=ymax).
*
*                  To plot the results, change the sgplotlevel or
*                  the tecplotlevel to 1, depending upon which plotting
*                  program you wish to use.
*
*
* Creator        : Eric R. Keiter, 9233, Computational Sciences
*
* Creation Date  : 10/26/00
*
* Revision Information:
* ---------------------
*
* Revision Number: $Revision$
*
* Revision Date  : $Date$
*
* Current Owner  : $Author$
*-------------------------------------------------------------------------

VPOS  1 0 DC 5V
*VBB   6 0 DC -2V
BBB   6 0 V={-V(T1)}
RE    1 2 2K
RB    3 4 190K

YPDE BJT 5 3 7 PDEBJT meshfile=internal.msh 
+ node = {name = collector, base, emitter}
+ sgplotlevel=0 tecplotlevel=0
+ l=2.0e-3  w=1.0e-3
+ nx=30     ny=15
+ mobmodel=carr
* The old intrinsic calculation was used to generate gold standard.
* It is inaccurate, however. 
+ useOldNi=true


* Zero volt sources acting as an ammeter to measure the
* base, collector, and emmitter currents, respectively
VMON1 4 6 0
VMON2 5 0 0
VMON3 2 7 0 

VMON T2 0 0.0
RMON T2 0 1.0

VBB T1 0 2V
RBB T1 0 1.0

.MODEL PDEBJT   ZOD  level=2

*.DC VBB 0.0 -0.5 -0.5 VPOS 0.0 0.5 0.5 

************************************
* **** Start Homotopy Setup ****
************************************
.options nonlin nlstrategy=0 searchmethod=2
+ maxstep=30 maxsearchstep=1 continuation=1

.options loca stepper=0 predictor=0 stepcontrol=0
+ conparam=VPOS,VBB
+ initialvalue=0.0,0.0 minvalue=0.0,0.0 maxvalue=2.0,2.0
+ initialstepsize=0.2,0.2 minstepsize=1.0e-4,1.0e-4 maxstepsize=0.2,0.2
+ aggressiveness=1.0,1.0
+ maxsteps=5000 maxnliters=200
**********************************
* **** End Homotopy Setup ****
**********************************

*.options NONLIN maxstep=30 maxsearchstep=1 searchmethod=2 
*+in_forcing=0 nlstrategy=0 debuglevel=-1

.options TIMEINT reltol=1.0e-3 abstol=1.0e-6 doubledcop=drift_diffusion

.DC VMON 0.0 0.0 1.0
.PRINT DC V(T2) V(1) V(6) I(VMON1) I(VMON2) I(VMON3)

.END

