*-------------------------------------------------------------------------
* Copyright Notice
*
* Copyright (c) 2000, Sandia Corporation, Albuquerque, NM.
*-------------------------------------------------------------------------
*
*-------------------------------------------------------------------------
* Filename       : $RCSfile$
*
* Purpose        : Cartesian PDE BJT test circuit
*
* Special Notes  : This circuit is identical to the cartbjt2.cir circuit, 
*                  except that the final voltage values are really large, 
*                  and the homotopy is intentionally very agressive to 
*                  produce step failures.  This circuit is a test for
*                  bug 1958 on charleston.
*
* Creator        : Eric R. Keiter, SNL
*
* Creation Date  : 4/22/2015
*
* Revision Information:
* ---------------------
*
* Revision Number: $Revision$
*
* Revision Date  : $Date$
*
* Current Owner  : $Author$
*-------------------------------------------------------------------------
VPOS  1 0 DC 5V
BBB   6 0 V={-V(T1)}
RE    1 2 2K
RB    3 4 190K

YPDE BJT 5 3 7 PDEBJT meshfile=internal.msh 
+ node = {name = collector, base, emitter}
+ sgplotlevel=0 tecplotlevel=1
+ l=2.0e-3  w=1.0e-3
+ nx=30     ny=15
+ mobmodel=carr
* The old intrinsic calculation was used to generate gold standard.
* It is inaccurate, however. 
+ useOldNi=true

* Zero volt sources acting as an ammeter to measure the
* base, collector, and emmitter currents, respectively
VMON1 4 6 0
VMON2 5 0 0
VMON3 2 7 0 

VMON T2 0 0.0
RMON T2 0 1.0

VBB T1 0 2V
RBB T1 0 1.0

.MODEL PDEBJT   ZOD  level=2

************************************
* **** Start Homotopy Setup ****
************************************
.options nonlin nlstrategy=0 searchmethod=2
+ maxstep=30 maxsearchstep=1 continuation=1

.options loca stepper=0 predictor=0 stepcontrol=0
+ conparam=VPOS,VBB
+ initialvalue=0.0,0.0 minvalue=0.0,0.0 maxvalue=15.0,15.0
+ initialstepsize=15.0,15.0 minstepsize=1.0e-4,1.0e-4 maxstepsize=15.0,15.0
+ aggressiveness=1.0,1.0
+ maxsteps=5000 maxnliters=200
**********************************
* **** End Homotopy Setup ****
**********************************
.options TIMEINT reltol=1.0e-3 abstol=1.0e-6 doubledcop=drift_diffusion

.DC VMON 0.0 0.0 1.0
.PRINT DC V(T2) V(1) V(6) I(VMON1) I(VMON2) I(VMON3)

.print homotopy V(T2) V(1) V(6) I(VMON1) I(VMON2) I(VMON3)

.END

