NPN Bipolar Transistor Circuit Netlist
*
* This test is identical to npn_bjt_pde.cir, except that it sets the 
* temperature to a non-default value.
*
* The reason for this temperature change is to force the Philips mobility 
* model to exercise the internal Newton loop that is used to estimate the 
* minimum value of G(P), one of the scattering terms in the model.  
* Fixing this Newton loop was the subject of this gitlab issue:  
*
* https://cee-gitlab.sandia.gov/Xyce/backlog/bugs/-/issues/23
*
* Prior to the fix for that issue, the old implementation of the Newton 
* loop was broken, and produced NaNs.
*--------------------------------------------------------------------------------
VCC  4 0 DC 12V
RC 3 4 2K
RB 4 5 377K
* Zero volt sources used as ammeters to measure the
* base and collector currents, respectively
VMON1 5 1 0
VMON2 3 2 0

*--------------------------------------------------------------------------------
ypde npnop 2 1 0 pdebjt    
+ C0=1.0e+17
+ tecplotlevel=1 
+ gnuplotlevel=0
+ mobmodel=philips
+ fielddep=true
+ auger=false
* relatively course mesh, so the test runs quickly
+ l=9.0e-4 nx=50
* DOPING REGIONS:
+ region={name       =            reg1,  reg2
+         function   =            file, file
+         file       =       boron.dat, phos.dat
+         nmaxchop   =         1.5e+18, 3.3e+19
+         type       =           ptype,  ntype
+         species    =              BM,  PP }
*
* ELECTRODES:
+ node={name           = collector,      base,  emitter
+       bc             = dirichlet, dirichlet,  dirichlet
+       side           =     right,    middle,  left
+       area           =    1.0e-2,    1.0e-2,  1.0e-2
+       location       =    9.0e-4,    3.0e-4,  0.0 }
*
.MODEL pdebjt ZOD  level=1
*--------------------------------------------------------------------------------
* this option forces it to skip the NL poisson initial guess
.options timeint doubledcop=drift_diffusion

.options device temp=35

.DC VCC 0.0 6.0 0.01
.PRINT DC  V(4) I(VMON1) I(VMON2) V(1) V(2) 

.END
